Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
gabapentin / Lyrica
 
Attending: ___.
 
Chief Complaint:
nausea/vomiting, abdominal distention
 
Major Surgical or Invasive Procedure:
Pleurex catheter placement: ___

 
History of Present Illness:
___ w/ CAD, HTN, DL, T2DM, neuropathy, and aggressive stage IV
endometrial CA s/p TAH/BSO, debulking, pelvic and interstitial 
radiotherapy in ___, progression after 5 cycles of 
___, Everolimus, taxotere, Gemzar, now on Kevetrin and 
very recent admission for SBO who presents back to clinic 2 days 
later for persistent nausea/vomiting at home. During last 
admission, pt was managed conservatively and underwent 
paracentesis to remove 3L ascites fluid after she was slow to 
improve. She was able to tolerate a clear diet without n/v/pain 
and was ultimately discharged on clear diet with instructions to 
advance very slowly at home. During the evening of her discharge 
at home, however, she tried some broth, jello, and cranberry 
juice for dinner and had recurrence of nausea with emesis during 
the night. She tried broth and gatorade the next day and felt 
okay during the day until nausea and vomiting recurred during 
the night. She denies any fever, chills, abdominal pain, chest 
pain, sob. She has had one BM consisting of small pieces of 
stool and fluid at home. She endorses a lot more burping than 
passing flatus. Her friend brought her back to clinic today out 
of concern and she was directly admitted to OMED to obtain CT 
imaging given persistence of her symptoms.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___- endometrial biopsy with adenocarcinoma  
___- TAH-BSO with staging laparotomy (Dr. ___ 
and Dr. ___ showed enlarged firm uterus and 
disease along ureterosacral ligament on the left; visually 
debulked; path with adenocarcinoma of the endometrioid type 
invading into uterine serosa, bilateral tubes and ovaries, and 
involving fibroadipose tissue in posterior cul-de-sac. Biopsy of 
omentum showed involvement of omental adipose tissue. (Stage 
IVb- pT3aN1M1)  
___- started cycle 1 ___  
___- switched to ___ (due to neuropathy) (received one 
cycle- adriamycin 45 mg/m2)  
___ switched back to ___ (dose reduced taxol d/t 
neuropathy)  
___- nodule anterior wall of vagina- biopsy showed 
adenocarcinoma c/w endometrial primary  
___- pelvic radiotherapy with concurrent bevacizumab 
(Dr. ___  
___- interstitial brachytherapy  
___- two increased peritoneal soft tissue nodules left lower 
quadrant; CA125 =39  
___- PET-CT with multiple soft tissue nodules adjacent to 
the anterior abdominal wall which are FDG avid (1.5 x 1.3 cm 
nodule adjacent to left rectus femoris muscle; cluster of small 
nodules in mid anterior pelvis measuring 1.5 x 2.7 cm in 
aggregate; small fat-containing ventral hernia with soft tissue 
changes in the inferior aspect demonstrating FDG avidity)  
___- first cycle carboplatin AUC 4/doxil 25 mg/m2  
___ cycle carboplatin AUC 4/doxil 25 mg/m2  
___- third cycle carboplatin AUC 4/doxil 25 mg/m2  
___- PET showed partial response- decrease in nodule left 
anterior abdominal wall; other nodules similar but difficult to 
assess avidity  
___- fourth cycle carboplatin AUC 4/doxil 25 mg/m2  
___- fifth cycle carboplatin AUC 4/doxil 25 mg/m2 
(anticipated)  
___- started Megace 160 mg daily for 3 weeks followed by 
tamoxifen 40 mg daily for 3 weeks  
___- PET with increase in size and FDG avidity of multiple 
anterior abdominal nodules  
___- started everolimus 10 mg/d  
___- everolimus decreased to 5mg/d  
___- everolimus increased to 10 mg/d as marker rising  
___- CA125 up to 42; everolimus d/c'd  
___- started ___  
___- cycle 2 ___  
___- cycle 3 ___  
___- PET with increased peritoneal carcinomatosis; Taxotere 
started  
___- PET with overall stable disease (compared with ___  
___- hospitalized for partial SBO; resolved  
___- started weekly gemcitabine 800 ___- hospitalized for partial SBO; resolved  
___- cycle 2 week 1 gemcitabine (delayed one week)  
___- cycle 2 week 2 gemcitabine (3rd dose)  
 
PAST MEDICAL HISTORY:  
1. Hypertension.  
2. Endometrial cancer- stage IV- first chemotherapy ___  
3. Type II DM-- c/b by neuropathy  
4. Psoriasis  
5. Hypercholestrolemia  
6. Headache  
7. Osteoarthritis  
8. Obesity  
9. Fatty Liver  
10. Depression  
11. GERD  

 
Social History:
___
Family History:
mom with myeloproliferative d/o; PGM had cholangiocarcinoma; MGM 
had breast cancer in her ___ maternal aunt had breast cancer 
then uterine cancer then MDS which transformed to leukemia. 
Paternal aunt's son had renal cell cancer 56. Brother ___ had 
large colon polyp- apparently had MSI/IHC testing of this for 
HNPCC which was reportedly negative; no further testing was 
recommended 
 
Physical Exam:
VS: 98.7 128/60 105 18 97% RA
GEN: Middle aged female who appears stated age. Lying in bed,
NAD.
HEENT: PERRL. MMM. No JVD.
Cards: RRR, S1/S2 normal. no murmurs/gallops/rubs.
Pulm: CTAB no crackles or wheezes
Abd: BS present in all quadrants. Mild distension. Irregular 
abdominal wall, no TTP, no rebound/guarding. Hard midline mass 
in lower abdomen/pelvis.
Extremities: wwp, no edema.
Skin: no rashes or bruising
Neuro: AAOx3, gait intact, strength ___ in UEs and ___.
 
Pertinent Results:
___ 05:14AM BLOOD WBC-6.0 RBC-3.40* Hgb-9.2* Hct-28.7* 
MCV-84 MCH-26.9* MCHC-31.9 RDW-16.4* Plt ___
___ 05:28AM BLOOD Neuts-83.6* Lymphs-11.5* Monos-4.0 
Eos-0.7 Baso-0.2
___ 05:14AM BLOOD Plt ___
___ 05:14AM BLOOD Glucose-85 UreaN-7 Creat-0.7 Na-138 K-4.4 
Cl-105 HCO3-27 AnGap-10
___ 05:14AM BLOOD Calcium-6.7* Phos-2.6* Mg-1.7

CT abd/pelvis w/ contrast ___:
IMPRESSION:
1. Interval progression of intraabdominal metastatic disease, 
including significant interval enlargement of lower central 
mesenteric fluid collection, now 25.2 cm, with peripheral 
enhancing nodularity. Interval increase in diffuse omental 
caking with increasing soft tissue extension into the 
periumbilical region. Enlarging multiloculated peripheral 
hepatic fluid collections with enhancing mural nodules.
2. Small right middle lobe peribronchial opacities consistent 
with infection or aspiration.
3. Dilatation of proximal small bowel to 3.4 cm with gradual 
distal tapering and no abrupt transition point. An early partial 
small bowel obstruction cannot be excluded.
 
Brief Hospital Course:
Ms. ___ is a ___ w/ CAD, HTN, DL, T2DM, neuropathy, and 
stage IV endometrial CA s/p TAH/BSO, surgical debulking, pelvic 
XRT in ___, progression despite chemo with recent 
admission for SBO who was re-admitted with persistent 
obstruction.

# Small bowel obstruction: 
Pt's persistent SBO was likely due to a large loculated 
mesenteric fluid collection (~25 cm) compressing her small bowel 
that was identified on CT A/P on ___. This fluid collection had 
been enlarged in comparison to that previously seen on CT in 
___. Pt was initially managed conservatively on admssion with 
NPO and IVF with symptomatic medications. Her nausea and 
vomiting had resolved by admission and htere was no acute need 
for NGT placement. ___ was consultation for drainage of the 
loculated fluid collection. Per discussions held with pt's 
primary oncologist, ___ was asked to place a Pleurex abdominal 
drain, given the high likelihood of re-accumulation and 
recurrent SBO. The purpose of the drain was palliative, and pt 
was instructed on management and drainage of fluid at home upon 
discharge. Pt was able to tolerate full liquids well by time of 
discharge without symptoms.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 125 mg PO HS 
2. Aspirin 81 mg PO DAILY 
3. Calcium Carbonate 0 mg PO Frequency is Unknown 
4. Citalopram 20 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Centrum Silver 
(
m
u
l
t
i
v
i
t
-
m
i
n
-
F
A
-
___ 
acid-lutein) 0.4-300-250 mg-mcg-mcg oral daily 
7. Furosemide 80 mg PO 3X/WEEK (___) 
8. lactobacillus acidophilus 0 unknown ORAL Frequency is Unknown 

9. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
10. metronidazole-skin cleansr #23 0.75 % topical BID 
11. Morphine SR (MS ___ 15 mg PO Q12H 
12. Multivitamins 1 TAB PO DAILY 
13. Omeprazole 20 mg PO DAILY 
14. OxycoDONE (Immediate Release)  5 mg PO Q2H:PRN pain 
15. Potassium Chloride 30 mEq PO DAILY 
16. Pyridoxine 200 mg PO DAILY 
17. TripleFlex (glucosamine HCl-msm-chondroitn) ___ mg 
oral daily 
18. Vitamin D 0 UNIT PO Frequency is Unknown 
19. Senna 8.6 mg PO BID:PRN constipation 
20. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 

 
Discharge Medications:
1. Amitriptyline 125 mg PO HS 
2. Aspirin 81 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
7. OxycoDONE (Immediate Release)  5 mg PO Q2H:PRN pain 
8. Pyridoxine 200 mg PO DAILY 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Calcium Carbonate 0 mg PO Frequency is Unknown 
11. Centrum Silver 
(
m
u
l
t
i
v
i
t
-
m
i
n
-
F
A
-
___ 
acid-lutein) 0.4-300-250 mg-mcg-mcg oral daily 
12. Furosemide 80 mg PO 3X/WEEK (___) 
13. lactobacillus acidophilus 0 mg ORAL Frequency is Unknown 
14. MetFORMIN XR (Glucophage XR) 1000 mg PO DAILY 
15. metronidazole-skin cleansr #23 0.75 % topical BID 
16. Morphine SR (MS ___ 15 mg PO Q12H 
17. Multivitamins 1 TAB PO DAILY 
18. Potassium Chloride 30 mEq PO DAILY 
19. TripleFlex (glucosamine HCl-msm-chondroitn) ___ mg 
oral daily 
20. Vitamin D 0 UNIT PO Frequency is Unknown 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Mesenteric fluid collection, small bowel obstruction

Secondary: Stage 4 endometrial carcinoma, coronary artery 
disease, hypertension, type 2 diabetes, neuropathy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital for nausea 
and vomiting.  We did a CT scan of your belly and found a large 
collection of fluid that was compressing your intestines and 
causing an obstruction.  Our interventional radiologists 
inserted a permanent catheter (called a "Pleurex" catheter) into 
this fluid collection to drain it and relieve the obstruction.  
After draining the fluid collection, your obstruction improved, 
and you began having bowel movements and were able to tolerate 
drinking liquids again.  You should continue to advance your 
diet slowly over the next several days.  

If you feel nauseated or have abdominal distension, you should 
drain your pleurex catheter.  You don't have to do this on any 
particular schedule; you should do it only as needed for 
abdominal distension.

Finally, prior to discharge, we started a new chemotherapy 
medicine called Abraxane, which you tolerated well.  You will 
follow-up with your primary oncologist, Dr. ___ 
future doses of this medication.

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___